US07745414B2
1-Chloro-2-(4-methyl-benzyl)-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-benzene
Diisobutylaluminumhydride (54 μL, 1 mol/l in toluene) is added to a mixture of 1,1′-bis(diphenylphosphino)ferrocene-dichloropalladium(II) (22 mg) in THF (3 mL) in Ar atmosphere and chilled in an ice-bath. The mixture is stirred in the ice-bath for 0.5 h and then 1-chloro-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-2-[4-(trifluoromethylsulfonyloxy)-benzyl]-benzene (0.60 g) and Me2Zn (0.88 mL, 1 mol/L in toluene) are added in succession. The ice-bath is removed and the mixture is heated at reflux for 2.5 h. After cooling to room temperature, 1 M hydrochloric acid is added and the resulting mixture is extracted with ethyl acetate. The extracts collected are dried over sodium sulfate, and the solvent is removed. The residue is purified by chromatography on silica gel (cyclohexane/ethyl acetate 1:0->2:1).

reactant | Diisobutylaluminumhydride | 1 mol/l, 54 μL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 1-chloro-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-2-[4-(trifluoromethylsulfonyloxy)-benzyl]-benzene | 0.60 g | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C28H28ClF3O13S
reactant | Me2Zn | 1 mol/L, 0.88 mL | [Zn](C)C
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene dichloropalladium(II) | 22 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2].Cl[Pd]Cl
product | 1-Chloro-2-(4-methyl-benzyl)-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)CC1=CC=C(C=C1)C | C28H31ClO10
